US07446118B2
To a 0° C. suspension of MeNH2.HCl (15.6 mg, 0.231 mmol) in benzene (2 ml) was added Me3Al (2M in toluene, 115 μl, 2.31 mmol). The mixture was stirred at 0° C. for 5 min and at RT for 2 hours after which a solution of 3-(5-methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester XLIX in benzene (4 ml) was added. The reaction mixture was stirred at reflux for 5 hours and at room temperature for 16 hours, and quenched by addition of HCl (0.5 M). The aqueous layer was extracted with EtOAc. The organic layers were combined, dried over Na2SO4, filtered, and concentrated to yield crude 3-(5-Methoxy-1H-Indol-4-yl)-N-methyl-3-phenyl-propionamide L (37 mg, yellow oil), which was used without purification in the next step.

reactant | MeNH2.HCl | 0.231 mmol, 15.6 mg | CN.Cl
reactant | Me3Al | 2.31 mmol, 2M, 115 μl | C[Al](C)C
reactant | 3-(5-methoxy-1H-Indol-4-yl)-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)C1=C2C=CNC2=CC=C1OC)=O | C20H21NO3
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-Methoxy-1H-Indol-4-yl)-N-methyl-3-phenyl-propionamide | COC=1C(=C2C=CNC2=CC1)C(CC(=O)NC)C1=CC=CC=C1 | C19H20N2O2
